US03988339
8-Amino-7-trifluoromethylisoquinoline (0.7 g.) in 2 ml. of concentrated hydrochloric acid and 10 ml. of water is diazotized at 0° C. with 0.25 g. of sodium nitrite in 5 ml. of water. The resulting solution is added to a solution of 2 g. of cuprous chloride in 20 ml. of concentrated hydrochloric acid previously warmed to 70° C. After standing overnight, the reaction mixture is basified with 10% aqueous sodium hydroxide solution and extracted with ether. The ether extracts are washed with water, dried over sodium sulfate and evaporated to give 8-chloro-7-trifluoromethylisoquinoline as the residue. This isoquinoline is converted to the hydrochloride and recrystallized from ethanol and ether.

reactant | 8-Amino-7-trifluoromethylisoquinoline | 0.7 g | NC=1C(=CC=C2C=CN=CC12)C(F)(F)F | C10H7F3N2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 8-chloro-7-trifluoromethylisoquinoline | ClC=1C(=CC=C2C=CN=CC12)C(F)(F)F | C10H5ClF3N
